US09334269B2
To a solution of 3-(4-(trifluoromethoxy)phenoxy)propan-1-amine (450 mg, 1.91 mmol) in isopropanol (8 mL, 3 mL/mmol) was added DIPEA (0.5 mL, 2.86 mmol) and 2,4-dichloropyrimidine (340 mg, 2.29 mmol) and the mixture was stirred at 80° C. for 24 h. Then reaction mixture was concentrated under reduced pressure and extracted with EtOAc (2×30 mL) and water (2×30 mL). The EtOAc layer was washed with brine, dried over sodium sulfate and concentrated under reduced pressure. Purification by column chromatography provided 2-chloro-N-(3-(4-(trifluoromethoxy)phenoxy)propyl)pyrimidin-4-amine (400 mg, 60%) as a solid. Observed mass (M+1): 348.1.

reactant | 3-(4-(trifluoromethoxy)phenoxy)propan-1-amine | 1.91 mmol, 450 mg | FC(OC1=CC=C(OCCCN)C=C1)(F)F | C10H12F3NO2
reactant | DIPEA | 2.86 mmol, 0.5 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2,4-dichloropyrimidine | 2.29 mmol, 340 mg | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
solvent | isopropanol | 8 mL | C(C)(C)O | C3H8O
product | 2-chloro-N-(3-(4-(trifluoromethoxy)phenoxy)propyl)pyrimidin-4-amine | 400 mg, 60% | ClC1=NC=CC(=N1)NCCCOC1=CC=C(C=C1)OC(F)(F)F | C14H13ClF3N3O2
